US06831106B1
d) [4′-(2-Ethyl-[1,3]dioxolan-2-yl)-2′-methylbiphenyl-3-yl]methanol
In a manner similar to that of Example 20(e), by reaction of 4.5 g (15.2 mmol) of 4′-(2-ethyl-[1,3]dioxolan-2-yl]-2′-methylbiphenyl-3-carbaldehyde with 760 mg (20 mmol) of lithium aluminium hydride, the desired product is obtained in the form of a colourless oil (m=4.4 g, Y=97%).

reactant | 4′-(2-ethyl-[1,3]dioxolan-2-yl]-2′-methylbiphenyl-3-carbaldehyde | 15.2 mmol, 4.5 g | C(C)C1(OCCO1)C1=CC(=C(C=C1)C1=CC(=CC=C1)C=O)C | C19H20O3
reactant | lithium aluminium hydride | 20 mmol, 760 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [4′-(2-Ethyl-[1,3]dioxolan-2-yl)-2′-methylbiphenyl-3-yl]methanol | C(C)C1(OCCO1)C1=CC(=C(C=C1)C1=CC(=CC=C1)CO)C | C19H22O3
